US05348962
2-Fluoronitrobenzene (4.2 ml, 40 mmol), methyl 3 -hydroxyphenylacetate (5 g, 32.5 mmol) and potassium carbonate (6.9 g, 50 mmol) were heated together in DMF (100 ml) at 100° C. for 36 hrs. After evaporation of the solvent, the residue was partitioned between water (100 ml) and dichloromethane (100 ml), and the aqueous phase further extracted with dichloromethane (2×100 ml). The combined organics were dried and evaporated, and the residue chromatographed on silica, eluting with 25% ethyl acetate/60°-80° petrol to yield methyl 3-(2-nitrophenyloxy)phenylacetate (4 g); δH (CDCl3) 3.62 (2H, s, CH2CO2Me), 3.69 (3H, s, CO2Me), 6.94 (1H, d, J 7.2 Hz, ArH), 7.00-7.04 (2H, m, ArH), 7.09 (1H, d, J 8.3 Hz, ArH), 7.19 (1H, t, J 8.3 Hz, ArH), 7.32 (1H, t, J 7.9 Hz, ArH), 7.50 (1H, t, J 7.2 Hz, ArH), 7.94 (1H, d, J 8.2 Hz, ArH).

reactant | 2-Fluoronitrobenzene | 40 mmol, 4.2 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | methyl 3 -hydroxyphenylacetate | 32.5 mmol, 5 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl 3-(2-nitrophenyloxy)phenylacetate | 4 g | [N+](=O)([O-])C1=C(C=CC=C1)OC=1C=C(C=CC1)CC(=O)OC | C15H13NO5
